US05506239
1.0 g of 6-{4-[N-(3-chloropropylsulfonyl)-N-benzylamino]butoxy}carbostyril and 600 mg of 1,2,4-triazole were stirred at 140° C. for 3 hours. The reaction mixture was diluted with dioxane. The resulting crystals were collected by filtration and purified by a column chromatography (eluant: 3% methanol/chloroform). The purified crystals were recrystallized from ethyl acetate to obtain 327 mg of 6-[4-{N-[3-(1,2,4-triazol-1-yl)propylsulfonyl]-N-benzylamino}butoxy]-carbostyril.

reactant | 6-{4-[N-(3-chloropropylsulfonyl)-N-benzylamino]butoxy}carbostyril | 1.0 g | ClCCCS(=O)(=O)N(CC1=CC=CC=C1)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C23H27ClN2O4S
reactant | 1,2,4-triazole | 600 mg | N1N=CN=C1 | C2H3N3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-[4-{N-[3-(1,2,4-triazol-1-yl)propylsulfonyl]-N-benzylamino}butoxy]-carbostyril | 327 mg | N1(N=CN=C1)CCCS(=O)(=O)N(CC1=CC=CC=C1)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C25H29N5O4S
